US08119805B2
Stage (ii): (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methyl methanesulfonate
Methanesulfonyl chloride (1 eq), dissolved in methylene chloride (2 ml/mmol) was added dropwise to a cooled solution (0° C.) of (1-(3-(trifluoromethyl)phenyl-sulfonyl)piperidin-2-yl)methanol (1.1 eq) in methylene chloride (4 ml/mmol) and triethylamine (2.5 eq). When the addition was complete, the cooling bath was removed and the reaction mixture was stirred at room temperature until, according to thin layer chromatography control, the reaction was complete. Hydrogen chloride solution (0.5 mol/l, 2 ml/mmol) was added, the mixture was stirred for 15 min, the phases were separated and the organic phase was washed with water, dried over sodium sulfate and concentrated in vacuo. Yield: 43%

reactant | Methanesulfonyl chloride | 1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | (1-(3-(trifluoromethyl)phenyl-sulfonyl)piperidin-2-yl)methanol | 1.1 eq | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CO)(F)F | C13H16F3NO3S
reactant | triethylamine | 2.5 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methyl methanesulfonate | Yield: 43% | CS(=O)(=O)OCC1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C14H18F3NO5S2
